US08633173B2
[8-(4-fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine was prepared from 4-{4-[8-(4-fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester and trifluoroacetic acid (0.500 mL) in a manner analogous to Example 312 to give product (0.112 g). MP=244-247° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.62 (s, 1H), 8.79 (d, 1H), 8.22 (m, 2H), 7.82 (d, 1H), 7.60 (d, 2H), 7.35 (m, 2H), 7.12 (m, 3H), 3.00 (m, 2H), 2.55 (m, 3H), 2.20 br m, 1H), 1.65 (m, 2H), 1.45 (m, 2H). MS=388 (MH)+.

reactant | 4-{4-[8-(4-fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)F)=N1 | C28H30FN5O2
reactant | trifluoroacetic acid | 0.500 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [8-(4-fluoro-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine | FC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCNCC2 | C23H22FN5
